US07294644B2
1-[2-(2-Chloro-phenyl)-ethyl]-5-(2,5-dimethoxy-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid cyclohexylamide
The title compound was synthesized in analogy to Example 68, using 3-oxo-butyric acid methyl ester as compound of formula R, 2-bromo-1-(2,5-dimethoxy-phenyl)-ethanone as compound of formula S, 2-chloro-phenethylamine as R3—(CH2)m—NH2 and cyclohexylamine as R1R2NH, MS (ISP) 481.3 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 2-bromo-1-(2,5-dimethoxy-phenyl)-ethanone | BrCC(=O)C1=C(C=CC(=C1)OC)OC | C10H11BrO3
reactant | 2-chloro-phenethylamine | ClC1=C(CCN)C=CC=C1 | C8H10ClN
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | 1-[2-(2-Chloro-phenyl)-ethyl]-5-(2,5-dimethoxy-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1=C(N(C(=C1)C1=C(C=CC(=C1)OC)OC)CCC1=C(C=CC=C1)Cl)C | C28H33ClN2O3
